US08198269B2
Synthesis of N-[5-((4aR*,8aS*)-2-amino-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-8a-yl)thiophen-3-yl]-5-cyanopyridine-2-carboxamide
5-Cyanopyridine-2-carboxylic acid (19.0 mg), diisopropylethylamine (50.7 μl) and PyBOP (83.5 mg) were sequentially added to a solution of (+)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-aminothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine (50 mg) in dichloromethane (5.0 ml) in an ice bath. The mixture was returned to room temperature and stirred overnight. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography. The resulting intermediate was dissolved in dichloromethane (4.0 ml) and TFA (1.0 ml) was added. After stirring at room temperature for four hours, ice was added to terminate the reaction. The mixture was neutralized with a sodium bicarbonate solution, and the aqueous layer was neutralized with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH-silica gel column chromatography to obtain the title compound (33.9 mg).

reactant | 5-Cyanopyridine-2-carboxylic acid | 19.0 mg | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | diisopropylethylamine | 50.7 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBOP | 83.5 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | (+)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-aminothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 50 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@@]2(COCC[C@H]2CS1)C=1SC=C(C1)N | C21H31N3O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-((4aR*,8aS*)-2-amino-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-8a-yl)thiophen-3-yl]-5-cyanopyridine-2-carboxamide | 33.9 mg | NC1=N[C@@]2(COCC[C@H]2CS1)C1=CC(=CS1)NC(=O)C1=NC=C(C=C1)C#N | C18H17N5O2S2
